### PR TITLE
Fix #12507 Anomaly when using a ssreflect `reflect` view

### LINKED ISSUE #12507: [ssr] Anomaly when using a ssreflect `reflect` view
## Description of the problem

```coq
From mathcomp Require Import all_ssreflect all_fingroup.

Set Implicit Arguments.
Unset Strict Implicit.
Unset Printing Implicit Defensive.

Local Open Scope group_scope.

Lemma commute_abelian (gT : finGroupType) (G : {group gT})
  (G_abelian : abelian G) (g g' : gT) (gG : g \in G) (g'G : g' \in G) :
  g * g' = g' * g.
Proof.
rewrite (centsP _).  (* fails with Anomaly below *)
(* by rewrite (centsP G_abelian). (* succeeds *)
Qed. *)
```
Failure message is
```
Error:
Anomaly "Uncaught exception Not_found."
Please report at http://coq.inria.fr/bugs/.
```
whereas it should fail with a message indicating that Coq cannot infer arguments `A` and `B` of `centsP` (here `G` and `G'`).

#### Coq Version

(I think the mathcomp version does not matter)
- coq 8.11.2 + mathcomp 1.11.0
- coq 8.10.2 + mathcomp 1.10.0
- coq 8.9.1 + mathcomp 1.9.0
  with additional error message: `Ltac call to "rewrite (ssrrwargs) (ssrclauses)" failed.`

Different message with
- coq 8.8.2 + mathcomp 1.8.0
- coq 8.7.2 + mathcomp 1.8.0 
```
Error: Anomaly "cvtac's exception: Not_found"
Please report at http://coq.inria.fr/bugs/.
```

(I did not go further back)

### PR DESCRIPTION
**Pull request by gares**

### CODE REVIEW

**Comment by CohenCyril** [comment]
Still fails, did I manage to compile the right branch though? Since the anomaly is not the same, I'd say yes?
Does the following debug trace make sense:
```
File "./anomaly.v", line 13, characters 0-19:
Error:
Anomaly
"File "plugins/ssr/ssrequality.ml", line 404, characters 17-23: Assertion failed."
Please report at http://coq.inria.fr/bugs/.
Raised at file "plugins/ssr/ssrequality.ml", line 404, characters 17-29
Called from file "plugins/ssr/ssrequality.ml", line 403, characters 16-97
Called from file "plugins/ssr/ssrequality.ml", line 403, characters 16-97
Called from file "plugins/ssr/ssrequality.ml", line 403, characters 16-97
Called from file "plugins/ssr/ssrequality.ml", line 403, characters 16-97
Called from file "plugins/ssr/ssrequality.ml", line 404, characters 33-66
Called from file "engine/proofview.ml", line 1205, characters 10-43
Called from file "engine/evd.ml", line 1294, characters 15-20
Called from file "engine/proofview.ml", line 1217, characters 25-73
Called from file "engine/logic_monad.ml", line 192, characters 38-43
Called from file "engine/logic_monad.ml", line 117, characters 8-12
Called from file "engine/proofview.ml", line 229, characters 12-42
Called from file "proofs/proof.ml", line 383, characters 4-42
Called from file "proofs/proof.ml", line 557, characters 31-52
Called from file "plugins/ltac/g_ltac.mlg", line 371, characters 8-83
Called from file "vernac/declare.ml", line 53, characters 20-33
Called from file "plugins/ltac/g_ltac.mlg", line 366, characters 23-579
Called from file "vernac/lemmas.ml", line 32, characters 36-46
Called from file "vernac/vernacstate.ml", line 33, characters 37-55
Called from file "clib/option.ml", line 100, characters 19-24
Called from file "vernac/vernacinterp.ml", line 210, characters 20-60
Called from file "lib/flags.ml", line 17, characters 14-17
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "vernac/vernacinterp.ml", line 253, characters 18-43
Called from file "vernac/vernacinterp.ml", line 251, characters 6-279
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "stm/stm.ml", line 2421, characters 20-47
Called from file "stm/stm.ml", line 2346, characters 10-14
Called from file "stm/stm.ml", line 1000, characters 6-10
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "stm/stm.ml", line 2571, characters 4-105
Called from file "stm/stm.ml", line 2752, characters 4-60
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "toplevel/vernac.ml", line 68, characters 31-52
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "lib/flags.ml", line 17, characters 14-17
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "lib/flags.ml" (inlined), line 66, characters 19-40
Called from file "toplevel/vernac.ml", line 111, characters 8-69
Called from file "toplevel/vernac.ml", line 115, characters 6-19
Re-raised at file "clib/exninfo.ml", line 82, characters 4-38
Called from file "toplevel/vernac.ml", line 171, characters 30-88
Called from file "toplevel/ccompile.ml", line 148, characters 18-89
Called from file "toplevel/ccompile.ml" (inlined), line 214, characters 2-39
Called from file "toplevel/ccompile.ml", line 223, characters 4-41
Called from file "list.ml", line 110, characters 12-15
Called from file "toplevel/coqc.ml", line 45, characters 2-81
Called from file "toplevel/coqc.ml", line 67, characters 4-25
```
(otherwise I will try anew on Monday)

**Comment by gares** [comment]
It should now print a message.

The code was totally off, and still is (but should not raise an anomaly) when the rewrite rule's head is a HO constant (like `elimT`) since the code looks at its type (alone) to get arguments names. Even if I pass to it the actual arguments their names are going to be bogus, so I opted for using `Anonymous` (aka _) for each argument I can't really determine.

I tried to minimize the example, but I'd be happier if you could try on the real one.

**Comment by CohenCyril** [comment]
```coq
Lemma commute_abelian (gT : finGroupType) (G : {group gT})
  (G_abelian : abelian G) (g g' : gT) (gG : g \in G) (g'G : g' \in G) :
  g * g' = g' * g.
Proof.
Fail rewrite (centsP _).
(*
The command has indeed failed with message:
Unable to find an instance for the variables P, b, Pb.
Rule's type: (forall (P : Prop) (b : bool), reflect P b -> b -> P)
*)
```
This is not optimal, sure, but it is better than before, thanks!

File: test-suite/ssr/rewrtite_err_msg.v [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+Axiom centsP : forall (gT : finGroupType) (A B : group gT),
+  reflect (forall a, mem a A -> centralised B a) b.
+Arguments centsP {_ _ _}.
+
+Lemma commute_abelian (gT : finGroupType) (G : group gT)
+  (G_abelian : abelian G) (g g' : gT) (gG : mem g  G) (g'G : mem g'  G) :
+  mul g g' = mul g' g.
+Proof.
+Fail rewrite (centsP _). (* fails but without an anomaly *)
+Abort.
```
Comment (ppedrot) [inline test-suite/ssr/rewrtite_err_msg.v:30]: This is missing a newline it seems.

**Review by ppedrot — APPROVED** [review]

File: test-suite/ssr/rewrtite_err_msg.v (hunk 1 above)
Comment (gares) [reply test-suite/ssr/rewrtite_err_msg.v]: Thanks, I really don't know how I missed that ;-)

**Comment by gares** [comment]
@CohenCyril can you assign?

**Review by CohenCyril — APPROVED** [review]
I'am ok with the output from a user perspective.

**Comment by CohenCyril** [comment]
The CI failure seems to be unrelated but I am wondering why a Metacoq wrt coq dev can be in the CI of this branch...

**Comment by ppedrot** [comment]
@CohenCyril it was broken by an upstream change to Equations.

**Comment by CohenCyril** [comment]
> @CohenCyril it was broken by an upstream change to Equations.

Is it bound to happen or is it because `Equations` CI is not complete?

**Comment by gares** [comment]
It means you can ignore the failure

**Comment by CohenCyril** [comment]
Shall I put this in milestone 8.12?

**Comment by CohenCyril** [comment]
> Shall I put this in milestone 8.12?

I guess it is also the kind of fix that should be backported?

**Comment by ppedrot** [comment]
Yes, set it into 8.12.0 and it'll be automatically marked as backportendum.
